US06770761B2
Preparation of 2,6-diamino-4,5,6,7-tetrahydro-1,3-benzothiazole [Compound (1), R=R1=R2=hydrozen]
A solution of 2-amino-6-oxo-4,5,6,7-tetrahydro-1,3-benzothiazole (2.0 g, 12 mmol), ammonium acetate (9.2 g, 120 mmol) and sodium cyanoborohydride (0.53 g, 8.4 mmol) in 40 mL of methanol was stirred under nitrogen at ambient temperature for 48 hours. Concentrated HCl was added and methanol was removed in vacuo. The residue was mixed with water and solution was made alkaline with NaOH. White precipitate was removed by filtration, washed with water and dried to give 1.0 g of the title compound. The structure of the product was confirmed by NMR.

reactant | 2-amino-6-oxo-4,5,6,7-tetrahydro-1,3-benzothiazole | 12 mmol, 2.0 g | NC=1SC2=C(N1)CCC(C2)=O | C7H8N2OS
reactant | ammonium acetate | 120 mmol, 9.2 g | C(C)(=O)[O-].[NH4+]
reactant | sodium cyanoborohydride | 8.4 mmol, 0.53 g | C(#N)[BH3-].[Na+]
reactant | HCl | Cl | ClH
solvent | methanol | 40 mL | CO | CH4O
product | 2,6-diamino-4,5,6,7-tetrahydro-1,3-benzothiazole | 1.0 g | NC=1SC2=C(N1)CCC(C2)N | C7H11N3S
